* source SCHEMA_ELECTRONICA
R_R1         N18556 N00662  1k TC=0,0 
R_R2         N00593 N00606  100k TC=0,0 
R_R3         0 N00593  150k TC=0,0 
R_R4         N00710 N00606  22k TC=0,0 
R_R5         N00662 N00593  100k TC=0,0 
R_R6         N00696 0  5.6k TC=0,0 
R_R7         N00696 N001890  330 TC=0,0 
R_R8         N00898 N00710  1Meg TC=0,0 
R_R9         0 N00898  180k TC=0,0 
R_R10         N07710 N00710  100k TC=0,0 
R_R11         0 N00925  22k TC=0,0 
R_R12         N00875 N002690  6.8k TC=0,0 
R_R13         0 N002850  2k TC=0,0 
R_R14         N00854 N003030  22k TC=0,0 
R_R15         N00875 N003190  10k TC=0,0 
R_R16         N20905 N00889  22k TC=0,0 
R_R17         N20938 N20950  2.2k TC=0,0 
C_C1         N00580 N18556  100n  TC=0,0 
C_C3         N001890 N00721  4.7u  TC=0,0 
C_C4         N00889 N00898  1u  TC=0,0 
C_C5         0 N00925  4.7u  TC=0,0 
C_C6         N14157 N01066  4.7u  TC=0,0 
C_C7         N00606 0  4.7u  TC=0,0 
C_C8         N00854 N20905  33n  TC=0,0 
C_C9         N20905 N00884  33n  TC=0,0 
C_C10         N00721 N20938  2.2n  TC=0,0 
C_C11         N01841 N00875  2.2n  TC=0,0 
V_V2         N00710 0 25Vdc
X_R18         N00854 N20905 N00884 POT PARAMS: SET=0.5 VALUE=100K
X_R19         N01841 N00889 N20950 POT PARAMS: SET=0.5 VALUE=100K
R_R21         0 N14772  10Meg TC=0,0 
V_V1         N00580 0  AC 0.1
+SIN 0 0.1 1k 0 0 0
Q_Q3         N00710 N07710 N01066 QBC846B 
Q_Q2         N07710 N00898 N00925 QBC846B 
Q_Q1         N00710 N00662 N00696 QBC846B 
C_C71         N00606 0  4.7u  TC=0,0 
C_C72         N00606 0  4.7u  TC=0,0 
C_C51         0 N00925  2.2u  TC=0,0 
C_C52         0 N00925  4.7u  TC=0,0 
C_C61         N14157 N01066  4.7u  TC=0,0 
C_C62         N14157 N01066  4.7u  TC=0,0 
R_R141         N003030 N00721  10k TC=0,0 
R_R151         N003190 N00884  22k TC=0,0 
C_C2         N00593 N00696  4.7u  TC=0,0 
R_R131         N002850 N00875  330 TC=0,0 
R_R121         N002690 N01066  510 TC=0,0 
R_R201         N14772 N14157  510 TC=0,0 
R_R202         0 N14772  510 TC=0,0 
